US08865698B2
Step C: Preparation of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine:
To a yellowish solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitropyrazolo[1,5-a]pyrimidine (2.3 g, 6.66 mmol), in a 1:1 mixture of MeOH/DCM (30 mL/30 mL) was added Zn dust (4.36 g, 66.6 mmol) [<10 micron, Aldrich] while stirring. Saturated NH4Cl aqueous solution (30 mL) was added drop-wise to this suspension with rapid stirring. After NH4Cl addition was complete, the reaction mixture was allowed to cool to ambient temperature and stirred for another 15 minutes. The reaction was diluted with DCM (50 mL) and filtered through a GF/F paper, rinsing the wet cake with DCM. The organic layer of the filtrate was separated, and the aqueous layer was extracted with DCM (2×50 mL). The organic layers were combined, washed with brine (100 mL), dried over Na2SO4, and concentrated, to provide the basically pure product as a brownish foamy solid (2.08 g, 99% yield), which was used without further purification.

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitropyrazolo[1,5-a]pyrimidine | 6.66 mmol, 2.3 g | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2[N+](=O)[O-] | C16H13F2N5O2
reactant | MeOH DCM | 30 mL | CO.C(Cl)Cl
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Zn | 66.6 mmol, 4.36 g | [Zn] | Zn
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 2.08 g, 99% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
